US08207134B2
1) Synthesis of (3-bromo-4-methylphenyl)-(2,2-diethoxyethyl)-amine
Under a nitrogen stream, a mixture of 3-bromo-4-methyl-phenylamine (4.94 g, 26.55 mmol), bromoacetaldehyde diethyl acetal (6.80 g, 34.50 mmol), triethylamine (5.37 mL, 38.53 mmol) and ethanol (10.3 mL) was stirred for 2 hours at 150° C. using a microwave apparatus. The resultant solution was cooled to room temperature, and then water was added thereto. The resultant mixture was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel flash column chromatography (developing solution=ethyl acetate:n-hexane (1:10)), to thereby obtain the titled compound (6.43 g, 80%).

reactant | 3-bromo-4-methyl-phenylamine | 26.55 mmol, 4.94 g | BrC=1C=C(C=CC1C)N | C7H8BrN
reactant | bromoacetaldehyde diethyl acetal | 34.50 mmol, 6.80 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | triethylamine | 38.53 mmol, 5.37 mL | C(C)N(CC)CC | C6H15N
reactant | ethanol | 10.3 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | (3-bromo-4-methylphenyl)-(2,2-diethoxyethyl)-amine | 6.43 g, 80% | BrC=1C=C(C=CC1C)NCC(OCC)OCC | C13H20BrNO2
